US09290511B2
2-[4-[4-(Methoxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]acetic acid (24 mg, 0.06 mmol), pyrrolidine (5 mg, 0.067 mmol), HATU (26 mg) and triethylamine (0.025 mL) were stirred in acetonitrile (2 mL) at 50° C. for 20 hrs. The reaction was partitioned between water and DCM. The organics were separated and concentrated in vacuo. The residue was purified by preparative TLC, eluting 10% methanol in DCM. The isolated band was repurified by preparative TLC, eluting ethyl acetate to give 2-[4-[4-(methoxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]-1-pyrrolidin-1-yl-ethanone (3 mg). LCMS RT=4.61 min. M+1=451.

reactant | 2-[4-[4-(Methoxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]acetic acid | 0.06 mmol, 24 mg | COCC1CCN(CC1)C=1C2=C(N=C(N1)CC(=O)O)SC=C2C2=CC=CC=C2 | C21H23N3O3S
reactant | pyrrolidine | 0.067 mmol, 5 mg | N1CCCC1 | C4H9N
reactant | HATU | 26 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.025 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-[4-[4-(methoxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]-1-pyrrolidin-1-yl-ethanone | 3 mg | COCC1CCN(CC1)C=1C2=C(N=C(N1)CC(=O)N1CCCC1)SC=C2C2=CC=CC=C2 | C25H30N4O2S
